US05998406
Step 2: Preparation of (S)-N-{3-[3-fluoro-4-(4-oxo-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide.
Using a commercially available 1,4-dioxo-8-aza-spiro[4.5]decane, (S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}- acetamide is synthesized by the same method as in Step 1. To an acetone solution (70 ml) of this compound (3.79 g), water (20 ml) and p-toluenesulfonic acid monohydrate (3.66 g) are added successively and the mixture is heated under reflux for 3 hours. After the reaction mixture is cooled to room temperature, acetone is distilled off and the aqueous layer is neutralized with triethylamine. The solution is extracted with methylene chloride and the organic layer is washed with brine, dried over anhydrous sodium sulfate. The solvent is evaporated and the residue is purified by silica gel column chromatography (solvent: chloroform/methanol=50/1-25/1) to afford the title compound.

reactant | 1,4-dioxo-8-aza-spiro[4.5]decane | O=C1CCC(C12CCNCC2)=O | C9H13NO2
reactant | (S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}- acetamide | O1CCOC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H24FN3O5
reactant | acetone | 70 ml | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid monohydrate | 3.66 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | 20 ml | O | H2O
product | (S)-N-{3-[3-fluoro-4-(4-oxo-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | FC=1C=C(C=CC1N1CCC(CC1)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C17H20FN3O4
